US04876261
To 540 mg of 8-chloro-7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline, was added 11 ml of 48% hydrobromic acid, and the mixture was heated under reflux for 3 hours under an argon gas stream. After cooling, the crystals which separated out were collected by filtration, and 520 mg of 8-chloro-7-hydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide was obtained.

reactant | 8-chloro-7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 540 mg | ClC=1C(=CC=C2C(CNCC12)C1=CC(=C(C=C1)OC)OC)OC | C18H20ClNO3
reactant | hydrobromic acid | 11 ml | Br | BrH
product | 8-chloro-7-hydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 520 mg | Br.ClC=1C(=CC=C2C(CNCC12)C1=CC(=C(C=C1)O)O)O | InChI=1S/C15H14ClNO3.BrH/c16-15-11-7-17-6-10(9(11)2-4-13(15)19)8-1-3-12(18)14(20)5-8;/h1-5,10,17-20H,6-7H2;1H
